US05360800
5,6-Dihydro-4-methoxy-1-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-2(1H)-pyridinone
Sodium hydride (80% dispersion in oil; 360 mg) was suspended in dry DME (50 ml) under nitrogen and 5,6-dihydro-4-methoxy-2(1H)-pyridinone (1.27 g) in dry DME (20 ml) was added slowly. The resulting suspension was stirred at 20° for 1 h. 4-(Chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole (3.72 g) in dry DME (50 ml) was added, and after the initial reaction had subsided the mixture was heated to 50° for 4 h and then cooled. Methanol (5 ml) was added dropwise, and solvent was removed invacuo. 8% Aqueous sodium bicarbonate solution (300 ml) was added to the residue and the resulting solution was extracted with dichloromethane (2×300 ml), dried and evaporated in vacuo to leave an oil which was purified by FCC eluting with System A (200:8:1) to give the title compound (2.84 g), m.p. 181°-184°.

reactant | Sodium hydride | 360 mg | [H-].[Na+]
reactant | 5,6-dihydro-4-methoxy-2(1H)-pyridinone | 1.27 g | COC1=CC(NCC1)=O | C6H9NO2
reactant | 4-(Chloromethyl)-5-methyl-1-(triphenylmethyl)-1H-imidazole | 3.72 g | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | Methanol | 5 ml | CO | CH4O
solvent | DME | 50 ml | COCCOC | C4H10O2
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | DME | 50 ml | COCCOC | C4H10O2
product | 5,6-Dihydro-4-methoxy-1-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-2(1H)-pyridinone | 2.84 g | COC1=CC(N(CC1)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H29N3O2
